US05866568
A solution of methanesulphonyl chloride (11.4 g) in dichloromethane (50 ml) was added dropwise over 1 hour to a stirred mixture of N-(1-hydroxy-2-methylpropan-2-yl)-3-(4-bromophenyl)-2-methylpropionamide (31.4 g) and triethylamine (20.2 g) in dichloromethane (400 ml). The mixture was stirred for 2.5 hours and then water (300 ml) was added. The organic phase was separated, washed with water (200 ml) and saturated sodium chloride solution (200 ml) and dried (MgSO4). Volatile material was removed by evaporation to give 2-[1-(4-bromophenyl)propan-2-yl]-4,4-dimethyloxazoline(26.4 g) as a syrup; 1H NMR (CDCl3): 1.15 (d, 3 H), 1.2 (s, 3 H), 1.25 (s, 3 H), 2.25-2.35 (m, 2 H), 2.95-3.0 (m, 1 H), 3.85 (s, 2 H), 7.05 (d, 2 H), 7.4 (d, 2 H).

reactant | methanesulphonyl chloride | 11.4 g | CS(=O)(=O)Cl | CH3ClO2S
reactant | N-(1-hydroxy-2-methylpropan-2-yl)-3-(4-bromophenyl)-2-methylpropionamide | 31.4 g | OCC(C)(C)NC(C(CC1=CC=C(C=C1)Br)C)=O | C14H20BrNO2
reactant | triethylamine | 20.2 g | C(C)N(CC)CC | C6H15N
reactant | water | 300 ml | O | H2O
solvent | dichloromethane | 50 ml | ClCCl | CH2Cl2
solvent | dichloromethane | 400 ml | ClCCl | CH2Cl2
product | 2-[1-(4-bromophenyl)propan-2-yl]-4,4-dimethyloxazoline | 26.4 g | BrC1=CC=C(C=C1)CC(C)C=1OCC(N1)(C)C | C14H18BrNO
